* C:\Users\James\Desktop\Converter Selection Controls.asc
R1 +VCC Comp+ 1000k
R2 Comp+ 0 1000k
R3 +VCC Comp- 5k
D1 0 Comp- 2_5V_Zener
V1 +VCC 0 PULSE(0 24V 0 1ms 1ms 1ms 4ms 5)
C1 Boost_In 0 10µ
M1 Boost_In Control_Boost +VCC +VCC FDC5614P
M2 Buck_In Control_Buck +VCC +VCC FDC5614P
R13 +VCC Control_Buck 10k
M6 Control_Buck N001 N002 N002 AP9465GEM
M7 Control_Boost N003 0 0 AP9465GEM
R19 +VCC Control_Boost 1k
R17 +VCC N002 5k
R21 N002 0 5k
C5 Buck_In 0 10µ
R6 Buck_In 0 1k
R7 Boost_In 0 1k
XU1 Comp+ Comp- +VCC 0 N001 LT1018
XU2 Comp- Comp+ +VCC 0 N003 LT1018
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 5ms uic
.inc "C:\Users\James\Documents\LT SPICE SIMULATIONS\MMSZ5222BT1G.txt"
.lib LTC1.lib
.backanno
.end
